US08802679B2
tert-Butyl 4-(3-formylpyridin-2-yl)piperazine-1-carboxylate (1.88 g) was dissolved in acetic acid (20 ml), and bromine (1.03 g) was added dropwise thereto, followed by stirring at room temperature for 30 minutes. The solvent was evaporated under reduced pressure. The obtained residue was subjected to liquid separation by the addition of CHCl3 and a 1 M aqueous NaOH solution. The organic layer was dried over MgSO4 and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain tert-butyl 4-(5-bromo-3-formylpyridin-2-yl)piperazine-1-carboxylate (2.05 g).

reactant | tert-Butyl 4-(3-formylpyridin-2-yl)piperazine-1-carboxylate | 1.88 g | C(=O)C=1C(=NC=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21N3O3
reactant | bromine | 1.03 g | BrBr | Br2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | tert-butyl 4-(5-bromo-3-formylpyridin-2-yl)piperazine-1-carboxylate | 2.05 g | BrC=1C=C(C(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C=O | C15H20BrN3O3
